US08802673B2
b) (RS)-(2-Fluoro-4-morpholin-2-yl-phenyl)-(5-trifluoromethyl-pyrimidin-2-yl)-amine
To a stirred solution of (RS)-2-[3-fluoro-4-(5-trifluoromethyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester (110 mg) in acetonitrile (2 ml) and water (4 ml) was added trifluoroacetic acid (190 μl). The reaction mixture was then capped and the mixture was shaken at 80° C. for 4 h. The reaction mixture was then cooled to room temperature and poured into 1 M aq. NaOH and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (Isolute® Flash-NH2 from Separtis; gradient: heptane/EtOAc) to (RS)-(2-fluoro-4-morpholin-2-yl-phenyl)-(5-trifluoromethyl-pyrimidin-2-yl)-amine (23 mg, 27%) as a white solid. MS (ISP): 343.1 ([M+H]+).

reactant | (RS)-2-[3-fluoro-4-(5-trifluoromethyl-pyrimidin-2-ylamino)-phenyl]-morpholine-4-carboxylic acid tert-butyl ester | 110 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=CC(=C(C=C1)NC1=NC=C(C=N1)C(F)(F)F)F | C20H22F4N4O3
reactant | trifluoroacetic acid | 190 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | 4 ml | O | H2O
product | (RS)-(2-Fluoro-4-morpholin-2-yl-phenyl)-(5-trifluoromethyl-pyrimidin-2-yl)-amine | FC1=C(C=CC(=C1)C1CNCCO1)NC1=NC=C(C=N1)C(F)(F)F | C15H14F4N4O
